US05024847
Sodium borohydride (22.9g, 0.605 mol) was added portionwise over a 1h period to a cold (0° C.) solution of 7-methyl-3-carboethoxy-6-octen-2-one (42.4g, 0.2 mol, which may be prepared as described by Cl. Daessle, H. Favre, and H. Schinz, Helv. Chim. Acta, 40:2278 (1957)) in ethanol (424 mL). The mixture was allowed to rise to 25° C. over a 0.5h period. After the mixture was stirred at 25° C. for 3.5h, acetone (50 mL) was added dropwise over a 15 min period. After stirring the mixture for 15 min, 25% aqueous acetic acid (200 mL) was added cautiously. The mixture was concentrated under reduced pressure to about 250 mL. The residue was diluted with water (150 mL) and extracted with methylene chloride (3×250 mL). The extracts were washed with water (2×100 mL) brine (100 mL) and dried over sodium sulfate. Evaporation of solvent produced 45.4g of crude product. A sample of the crude was kugelrohr distilled (0.5 mm, 150° C. bath temp.) to provide a sample for analysis of ethyl 2-(4-methyl-3-pentenyl)-3-hydroxybutyrate 2(GLC purity: two isomers; 50.9% and 43.1%). NMR (CDCl3, 60 MHz) δ 1.2 (3H, d, J=7Hz), 1.23 (3H, t, J=7Hz), 1.58 (3H, s), 1.67 (3H, s), 1.0-2.8 (5H, m), 3.6-4.1 (1H, m), 4.17 (2H, q, J=7Hz), 4.9-5.3 (1H, m); IR (film) vmax 330, 2960, 2910, 30, 1450 cm-1 ; MS m/e 214, 199, 181, 143, 99, 82. Both isomers display similar mass spectra. The abbreviation Et as used herein represents --CH2CH3.

reactant | Sodium borohydride | 0.605 mol, 22.9g | [BH4-].[Na+]
reactant | 7-methyl-3-carboethoxy-6-octen-2-one | 0.2 mol, 42.4g | CC(=CCCC(C(C)=O)C(=O)OCC)C | C12H20O3
reactant | acetone | 50 mL | CC(=O)C | C3H6O
reactant | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 424 mL | C(C)O | C2H6O
product | ethyl 2-(4-methyl-3-pentenyl)-3-hydroxybutyrate | CC(=CCCC(C(=O)OCC)C(C)O)C | C12H22O3
